US07589081B2
Synthesis of N-phenyl-2-(dicyclohexyl-phosphino)indole
1.6 ml (15 mmol.) of TMEDA are added to 1.93 g (10 mmol.) of 1 in 30 ml of hexane. A solution (1.6 M in hexane) of n-BuLi (6.25 ml, 10 mmol.) is added dropwise. After 3 hours, reflux (75° C.), the colour has deepened from yellow to orange. Without cooling, a solution of 2.2 ml (10 mmol.) of chlorodicyclohexylphosphane in 20 ml of hexane is added dropwise. Refluxing is carried out for a further one hour, the colour of the mixture lightening again and a white solid precipitating. After cooling, 30 ml of water are added to the mixture. The aqueous phase is extracted 3 times using 20 ml of hexane each time. The combined organic phases are washed with 10 ml of water, dried over Na2SO4 and concentrated in vacuo (45° C.). The yellow residue is boiled for 30 minutes in 30 ml of MeOH. After cooling to RT, the resulting product is filtered off (660 mg, 17%).

reactant | TMEDA | 15 mmol, 1.6 ml | CN(C)CCN(C)C | C6H16N2
reactant | n-BuLi | 10 mmol, 1.6 M, 6.25 ml | [Li]CCCC
reactant | chlorodicyclohexylphosphane | 10 mmol, 2.2 ml | ClP(C1CCCCC1)C1CCCCC1 | C12H22ClP
solvent | hexane | 30 ml | CCCCCC | C6H14
solvent | hexane | 20 ml | CCCCCC | C6H14
product | N-phenyl-2-(dicyclohexyl-phosphino)indole | C1(=CC=CC=C1)N1C(=CC2=CC=CC=C12)P(C1CCCCC1)C1CCCCC1 | C26H32NP
